US08912188B2
To a solution of (furan-2-yl)boronic acid (3.0 g, 26.81 mmol) in dioxane (50.0 mL) and water (1.0 mL) was added bromobenzene (2.10 g, 13.38 mmol), K3PO4 (9.3 g, 43.81 mmol) and Pd(PPh3)4 (767 mg, 0.66 mmol) with stirring for 3 h at 95° C. in an oil bath under an inert atmosphere of nitrogen. The reaction mixture was concentrated under reduced pressure to give the residue, which was purified by silica gel column chromatography (1% ethyl acetate in petroleum ether) to afford 2-phenylfuran as colorless oil (1.20 g, 62%).

reactant | (furan-2-yl)boronic acid | 26.81 mmol, 3.0 g | O1C(=CC=C1)B(O)O | C4H5BO3
reactant | bromobenzene | 13.38 mmol, 2.10 g | BrC1=CC=CC=C1 | C6H5Br
reactant | K3PO4 | 43.81 mmol, 9.3 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 50.0 mL | O1CCOCC1 | C4H8O2
solvent | water | 1.0 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.66 mmol, 767 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-phenylfuran | 1.20 g, 62% | C1(=CC=CC=C1)C=1OC=CC1 | C10H8O
